US06605626B2
Preparation of N-(4-Methoxyphenyl)-2-[1-(4-pyridinyl)piperidin-4-yloxycarbonyl]aminobenzamide
To a mixture of 1-(4-pyridyl)-4-hydroxypiperidine (536 mg, 3.01 mmol) and methylene chloride (45 mL) was added methanesulfonic acid (0.2 ml, 3.1 mmol). After stirring for 15 seconds, quinoline (0.45 mL, 3.8 mmol) was added, immediately followed by 1.93 M phosgene in toluene (2 mL, 3.9 mmol). After 5 minutes, the reaction was placed in a 35° C. oil bath for 45 minutes. The reaction was cooled to room temperature and N-(4-methoxyphenyl)-2-aminobenzamide (728 mg, 3.0 mmol) and quinoline(0.45 mL, 3.8 mmol) were added. After stirring overnight, the reaction was diluted with CH2Cl2(150 mL) and washed with sat'd sodium carbonate (2×25 mL). The organic layer was concentrated and the crude residue was chromatographed to give 617 mg (46%) of the title compound as a white solid.

reactant | 1-(4-pyridyl)-4-hydroxypiperidine | 3.01 mmol, 536 mg | N1=CC=C(C=C1)N1CCC(CC1)O | C10H14N2O
reactant | methanesulfonic acid | 3.1 mmol, 0.2 ml | CS(=O)(=O)O | CH4O3S
reactant | quinoline | 3.8 mmol, 0.45 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | phosgene | 1.93 M | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 3.9 mmol, 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | N-(4-methoxyphenyl)-2-aminobenzamide | 3.0 mmol, 728 mg | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1)N)=O | C14H14N2O2
reactant | quinoline | 3.8 mmol, 0.45 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Methoxyphenyl)-2-[1-(4-pyridinyl)piperidin-4-yloxycarbonyl]aminobenzamide | 617 mg, 46% | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC(=O)OC1CCN(CC1)C1=CC=NC=C1)=O | C25H26N4O4
